US04695578
2,3,4,9-Tetrahydro-N,N,N-trimethyl-4-oxo-1H-carbazole-3-methanaminium iodide
A solution of 3-[(dimethylamino)methyl]-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.53 g) in iodomethane (15 ml) was heated under reflux for 5 h and evaporated to dryness, giving the title compound as a white solid (0.84 g) m.p. 202°-205°.

reactant | 3-[(dimethylamino)methyl]-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.53 g | CN(C)CC1CCC=2NC3=CC=CC=C3C2C1=O | C15H18N2O
reactant | iodomethane | 15 ml | IC | CH3I
product | 2,3,4,9-Tetrahydro-N,N,N-trimethyl-4-oxo-1H-carbazole-3-methanaminium iodide | 0.84 g | [I-].C[N+](CC1CCC=2NC3=CC=CC=C3C2C1=O)(C)C | InChI=1S/C16H20N2O.HI/c1-18(2,3)10-11-8-9-14-15(16(11)19)12-6-4-5-7-13(12)17-14;/h4-7,11H,8-10H2,1-3H3;1H
